US08440652B2
To a solution of 4-(4-(5-aminopyrazin-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile (1.08 m, 3.84 mmol) in DMF (30 mL) was added N-bromosuccinimide (747 mg, 4.22 mmol) in one portion. The reaction was then stirred at room temperature for 1 h. At completion, the mixture was poured over ice (50 mL) and stirred for 20 min. After filtration and washing with water and drying under vacuum, 4-(4-(5-amino-6-bromopyrazin-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile was obtained as obtained as a dark brown solid (1.37 g, 100% yield).

reactant | 4-(4-(5-aminopyrazin-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile | 3.84 mmol | NC=1N=CC(=NC1)C1=CC=C(C=C1)C1(CCOCC1)C#N | C16H16N4O
reactant | N-bromosuccinimide | 4.22 mmol, 747 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-(4-(5-amino-6-bromopyrazin-2-yl)phenyl)tetrahydro-2H-pyran-4-carbonitrile | NC=1N=CC(=NC1Br)C1=CC=C(C=C1)C1(CCOCC1)C#N | C16H15BrN4O
